US07067529B2
To a stirred solution of 6-(3-acetoxy-propoxy)-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (150 mg, 0.30 mmol) in methanol (6 mL) was added powdered potassium hydroxide (169 mg, 3.0 mmol). The reaction mixture was stirred at room temperature for 3 hrs. The solvent was evaporated and the residue was diluted with ethyl acetate (20 mL) and water (20 mL). The aqueous phase was extracted with ethyl acetate (3×20 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford 6-(3-acetoxy-propoxy)-7-methoxy-1-(3-methoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde (78 mg, 67% yield) as a yellow oil. The crude product was used without further purification. To a stirred solution of 6-(3-acetoxy-propoxy)-7-methoxy-1-(3-methoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde (78 mg, 0.20 mmol) in chloroform (3 mL) was added manganese (IV) oxide (208 mg, 2.0 mmol). The reaction mixture was stirred at room temperature for 15 hrs, filtered through a Celite® pad, and washed with chloroform. The filtrate was concentrated in vacuo to afford 6-(3-acetoxy-propoxy)-7-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde (20 mg, 23% yield). The crude product was used without further purification.

reactant | 6-(3-acetoxy-propoxy)-7-methoxy-1-(3-methoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde | 0.20 mmol, 78 mg | C(C)(=O)OCCCOC=1C=C2C(=CNC(C2=CC1OC)CC1=CC(=CC=C1)OC)C=O | C24H27NO6
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese (IV) oxide | 2.0 mmol, 208 mg | [O-2].[Mn+4].[O-2]
product | 6-(3-acetoxy-propoxy)-7-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde | 20 mg, 23% yield | C(C)(=O)OCCCOC=1C=C2C(=CN=C(C2=CC1OC)CC1=CC(=CC=C1)OC)C=O | C24H25NO6
